US06291485B1
A. Synthesis of α-(3-methoxypyridin-2-yl)-3-ethoxybenzyl alcohol
To a solution of 2-bromomesitylene (9.16 ml, 60 m mol) in tetrahydrofuran (250 ml), a 1.64 M pentane solution of tert-butyl lithium (73 ml, 120 m mol) was added dropwise at −50° C. or below. After this mixture was stirred for 30 minutes, 3-methoxypyridine (5.0 g, 46 m mol) was added dropwise thereto at −50° C. or below and the resulting mixture was stirred at −20° C. for 2 hours. After the reaction mixture was cooled again to −50° C. or below, 3-ethoxybenzaldehyde (10.3 g, 69 m mol) was added dropwise thereto and the stirring was continued for another 30 minutes. After the addition of a saturated aqueous solution of sodium chloride (10 ml), the reaction mixture was returned to room temperature. After a saturated aqueous solution of sodium chloride (200 ml) was further added thereto, the organic layer was separated. The aqueous layer was extracted with ethyl acetate (200 ml), and the extract was combined with the previous organic layer. After the combined organic layer was washed with a saturated aqueous solution of sodium chloride (50 ml) and dried over magnesium sulfate, the solvent was distilled off under reduced pressure. The resulting solid was washed with hexane and then recrystallized from methanol (300 ml) to obtain the desired compound (7.0 g, 59%) as colorless crystals.

reactant | 2-bromomesitylene | 9.16 ml | BrC1=C(C=C(C=C1C)C)C | C9H11Br
reactant | tert-butyl lithium | 73 ml | C(C)(C)(C)[Li]
reactant | 3-methoxypyridine | 5.0 g | COC=1C=NC=CC1 | C6H7NO
reactant | 3-ethoxybenzaldehyde | 10.3 g | C(C)OC=1C=C(C=O)C=CC1 | C9H10O2
reactant | sodium chloride | 10 ml | [Cl-].[Na+]
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | pentane | 1.64 M | CCCCC | C5H12
product | α-(3-methoxypyridin-2-yl)-3-ethoxybenzyl alcohol | 7.0 g, 59% | COC=1C(=NC=CC1)C(C1=CC(=CC=C1)OCC)O | C15H17NO3
